US07943605B2
N-methylimidazole (360 ml, 4.5 mmol, 1.5 eq) is added to a cooled suspension of 4-(hydroxymethyl)-1,3-oxazolidin-2-one a90 (0.35 g, 3 mmol, 1 eq) in dichloromethane (20 ml). p-Toluenesulfonyl chloride a40 (0.63 g, 3.3 mmol, 1.1 eq) in dichloromethane (5 ml) is then added, dropwise. The mixture is stirred at 0° C. for 5 hours then at room temperature for 24 hours. The mixture is then quenched under vigorous stirring with 0.5 ml of water and taken up in chloroform (100 ml). The organic phase is washed with a saturated aqueous solution of sodium hydrogenocarbonate (2×25 ml), with a 1N solution of hydrochloric acid (2×25 ml), with brine, and is dried over magnesium sulfate. The organic layer is concentrated in vacuo to afford 0.61 g of (2-oxo-1,3-oxazolidin-4-yl)methyl 4-methylbenzenesulfonate a91 as a white solid.

reactant | N-methylimidazole | 4.5 mmol, 360 ml, 1.5 eq | CN1C=NC=C1 | C4H6N2
reactant | 4-(hydroxymethyl)-1,3-oxazolidin-2-one | OCC1NC(OC1)=O | C4H7NO3
reactant | p-Toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (2-oxo-1,3-oxazolidin-4-yl)methyl 4-methylbenzenesulfonate | 0.61 g, Yield: 75% | CC1=CC=C(C=C1)S(=O)(=O)OCC1NC(OC1)=O | C11H13NO5S
